// Generated for: spectre
// Generated on: Jul  8 06:57:10 2024
// Design library name: porting_65nm
// Design cell name: CP_TB
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters ISS=40u Period=800n VDD=1.2 VL=-VDD VH=VDD PW=0.5*Period \
    tr=PW/10 tf=PW/10
include "/home/centos/path/to/example/model.scs" section=tt

// Library name: porting_65nm
// Cell name: WCM
// View name: schematic
subckt WCM AGND AVDD Idown Iup Vb
    M1 (Iup Vb AVDD AVDD) pch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M0 (VM Vb AVDD AVDD) pch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M7 (net016 VM AGND AGND) nch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M6 (Idown Vx net016 AGND) nch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M5 (net010 VM AGND AGND) nch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M4 (VM Vx net010 AGND) nch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M3 (Vx Vx AGND AGND) nch l=2u w=750.0n m=2 nf=1 sd=200n ad=1.3125e-13 \
        as=1.3125e-13 pd=1.85u ps=1.85u nrd=0.133333 nrs=0.133333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M2 (AVDD AVDD Vx AGND) nch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
ends WCM
// End of subcircuit definition.

// Library name: porting_65nm
// Cell name: Diff_pair
// View name: schematic
subckt Diff_pair AGND AVDD VL VR Vb
    M3 (net9 net9 AVDD AVDD) pch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M2 (Vb Vb AVDD AVDD) pch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M1 (Vb net9 AVDD AVDD) pch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M0 (net9 Vb AVDD AVDD) pch l=2u w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M5 (net9 VR net14 AGND) nch l=600n w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    M4 (Vb VL net14 AGND) nch l=600n w=3u m=2 nf=1 sd=200n ad=5.25e-13 \
        as=5.25e-13 pd=6.35u ps=6.35u nrd=0.0333333 nrs=0.0333333 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0
    I0 (net14 AGND) isource dc=ISS type=dc
ends Diff_pair
// End of subcircuit definition.

// Library name: porting_65nm
// Cell name: CP
// View name: schematic
subckt CP AGND AVDD Down\+ Down\- I\+ I\- Up\+ Up\-
    I1 (AGND AVDD I\- I\+ net6) WCM
    I0 (AGND AVDD I\+ I\- net9) WCM
    I3 (AGND AVDD Up\+ Up\- net6) Diff_pair
    I2 (AGND AVDD Down\+ Down\- net9) Diff_pair
ends CP
// End of subcircuit definition.

// Library name: analogLib
// Cell name: ideal_balun
// View name: schematic
subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun
// End of subcircuit definition.

// Library name: porting_65nm
// Cell name: CP_TB
// View name: schematic
I0 (0 vdd! UP\- UP\+ VOUT\+ VOUT\- UP\+ UP\-) CP
I3 (net06 net05 UP\+ UP\-) ideal_balun
V3 (net06 0) vsource dc=0 type=dc
V1 (net05 0) vsource dc=VDD/2 type=dc
V0 (vdd! 0) vsource dc=VDD type=dc
C1 (VOUT\+ 0) capacitor c=10p ic=600m
C0 (VOUT\- 0) capacitor c=10p ic=600m
nodeset VOUT\-=0.6 VOUT\+=0.6 
ic VOUT\-=0.6 VOUT\+=0.6 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub currents=all subcktprobelvl=5 \
    saveahdlvars=all
